US04595753
A mixture of 8.6 g (0.1 mole) methyl acrylate and 19.5 g (0.105 mole, 5% excess) of diphenyl phosphine was reacted at 15° C. in the routine manner of Example 1. U.V. irradiation resulted in a rapid reaction. After 1 hour, there was no acrylate left unconverted. The expected mono- and diadducts were formed in a weight ratio of about 95° to 5. (A sample of the reaction misture which was not irradiated also showed a complete conversion after 22 hours but not after 1 hour.) On distillation of the reaction mixture in vacuo, the monoadduct, i.e. 2-carbomethoxyethyl diphenyl phosphine, was obtained as an almost colorless, liquid distillate having a slight yellow tint (Table 3).

reactant | methyl acrylate | 0.1 mole, 8.6 g | C(C=C)(=O)OC | C4H6O2
reactant | diphenyl phosphine | 0.105 mole, 19.5 g | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | acrylate | C(C=C)(=O)[O-]
product | 2-carbomethoxyethyl diphenyl phosphine | C(=O)(OC)CCP(C1=CC=CC=C1)C1=CC=CC=C1 | C16H17O2P
